US06777406B2
(±) -cis-N-phenyl-5,6,8,8a,9,10,11,11a-octahydro-4H-pyrido[3,2,1-ij]pyrrolo[3,4-c]quinolin-2-amine
To a solution of (±)-cis-tert-butyl 2-anilino-5,6,8a,9,11,11a-hexahydro-4H-pyrido[3,2,1-ij]pyrrolo[3,4-c]quinoline-10(8H)-carboxylate (80 mg, 0.20 mmol) in 5 ml of CH2Cl2 was added 1 ml of trifluoroacetic acid and the reaction was stirred at room temperature for 3 h. The volatiles were removed under reduced pressure and the residue was purified by prep HPLC (C18 reverse phase column, elution with a H2O/CH3CN gradient with 0.5% TFA). Product-containing fractions were combined, concentrated and partitioned between chloroform and saturated aqueous sodium carbonate. The organics were washed with brine, dried (K2CO3) and concentrated in vacuo to afford 15 mg (23%) of the title compound of EXAMPLE 17. 1H NMR (CDCl3): δ 7.18 (app t, 2H, J=7.8 Hz), 6.84 (app d, 2H, J=8.0 Hz), 6.78-6.72 (m, 1H), 6.67 (s, 1H), 6.65 (s, 1H), 5.46 (s, 1H), 3.45-3.30 (m, 2H), 3.24-3.17 (m, 1H), 3.08-3.00 (m, 2H), 2.97-2.85 (m, 1H), 2.78-2.55 (broad m, 6H), 2.05-1.93 (m, 2H). LRMS (ES)+: 306.3 (M+H)+.

reactant | (±)-cis-tert-butyl 2-anilino-5,6,8a,9,11,11a-hexahydro-4H-pyrido[3,2,1-ij]pyrrolo[3,4-c]quinoline-10(8H)-carboxylate | 0.20 mmol, 80 mg | N(C1=CC=CC=C1)C=1C=C2[C@@H]3[C@H](CN4C2=C(C1)CCC4)CN(C3)C(=O)OC(C)(C)C | C25H31N3O2
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | (±) -cis-N-phenyl-5,6,8,8a,9,10,11,11a-octahydro-4H-pyrido[3,2,1-ij]pyrrolo[3,4-c]quinolin-2-amine | 15 mg, 23% | C1(=CC=CC=C1)NC=1C=C2[C@@H]3[C@H](CN4C2=C(C1)CCC4)CNC3 | C20H23N3
